US08022222B2
Using the method of Example 3, Step B, ethyl 6-chloro-4-phenoxynicotinate (12.0 g, 43.4 mmol), 4-methylthiazol-2-amine (4.49 g, 39.4 mmol), potassium phosphate (9.20 g, 43.4 mmol), tris(dibenzylideneacetone)-dipalladium (0) (0.902 g, 0.985 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.627 g, 1.08 mmol) were combined in toluene (100 mL) and water (25 mL) to afford ethyl 6-(4-methylthiazol-2-ylamino)-4-phenoxynicotinate (9.6 g, 67.8% yield) as yellow solid. 1H NMR (CDCl3) δ 8.88 (s, 1H), 7.40 (m, 2H), 7.25 (m, 1H), 7.08 (m, 1H), 7.07 (m, 1H), 6.30 (d, 1H), 6.06 (s, 1H), 4.35 (q, 2H), 2.04 (s, 3H), 1.35 (t, 3H); Mass spectrum (esi) m/z=356 (100)(M+H).

reactant | ethyl 6-chloro-4-phenoxynicotinate | 43.4 mmol, 12.0 g | ClC1=NC=C(C(=O)OCC)C(=C1)OC1=CC=CC=C1 | C14H12ClNO3
reactant | 4-methylthiazol-2-amine | 39.4 mmol, 4.49 g | CC=1N=C(SC1)N | C4H6N2S
reactant | potassium phosphate | 43.4 mmol, 9.20 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 25 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 0.985 mmol, 0.902 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 1.08 mmol, 0.627 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | ethyl 6-(4-methylthiazol-2-ylamino)-4-phenoxynicotinate | 9.6 g, 67.8% yield | CC=1N=C(SC1)NC1=NC=C(C(=O)OCC)C(=C1)OC1=CC=CC=C1 | C18H17N3O3S
